US05428037
To a solution of 4-methylbenzamidine (4.4 g) in 30 ml of ethanol was added ethyl 2-methylacetoacetate (6.1 g), and the mixture refluxed for 4 hours, giving a precipitate. The mixture was cooled to 0° C., the solid filtered off, washed with ethanol, and dried under reduced pressure, yielding 6 g of 5,6-dimethyl-2-(4-methylphenyl)-3H-pyrimidin-4-one, m.p. 250° C.

reactant | 4-methylbenzamidine | 4.4 g | CC1=CC=C(C(=N)N)C=C1 | C8H10N2
reactant | ethyl 2-methylacetoacetate | 6.1 g | CC(C(=O)OCC)C(=O)C | C7H12O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5,6-dimethyl-2-(4-methylphenyl)-3H-pyrimidin-4-one | 6 g | CC=1C(NC(=NC1C)C1=CC=C(C=C1)C)=O | C13H14N2O
